US04369139
10.0 g. of 5-oxo-3-pyrrolidinyl acetate and 8.82 ml. of trimethylchlorosilane are dissolved in 100 ml. of absolute tetrahydrofuran and then 9.65 ml. of triethylamine are added at -5° C. to 0° C. The temperature is held at -5° C. to 0° C. for 1 hour, the mixture is then filtered under an argon atmosphere, the filtrate is evaporated and the residue is distilled in vacuo. There is obtained 5-oxo-1-trimethylsilyl-3-pyrrolidinyl acetate, having a boiling point of 110° C./0.07 mmHg.

reactant | 5-oxo-3-pyrrolidinyl acetate | C(C)(=O)OC1CNC(C1)=O | C6H9NO3
reactant | trimethylchlorosilane | C[Si](Cl)(C)C | C3H9ClSi
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 5-oxo-1-trimethylsilyl-3-pyrrolidinyl acetate | C(C)(=O)OC1CN(C(C1)=O)[Si](C)(C)C | C9H17NO3Si
